US07259183B2
Preparation of 5-Fluoro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-phenethyl-amide 105
66 mg (0.33 mol) of 5-fluoro-1H-indol-7-carboxylic acid, 80 mg (0.30 mmol) of (4-tert-butyl-benzyl)-2-phenyl-ethyl-amine and 63 mg (0.33 mmol) of EDC.HCl were dissolved in 3 ml DCM. The reaction mixture was stirred at rt over night. The solvent was evaporated and the residue was purified by column chromatography (20 g silica gel; heptane/EtOAc 7:3) to yield 85 mg (66%) product as a light yellow viscous oil. MS (ISP) 429.4 (M+H)+.

reactant | 5-fluoro-1H-indol-7-carboxylic acid | 0.33 mol, 66 mg | FC=1C=C2C=CNC2=C(C1)C(=O)O | C9H6FNO2
reactant | (4-tert-butyl-benzyl)-2-phenyl-ethyl-amine | 0.30 mmol, 80 mg | C(C)(C)(C)C1=CC=C(CNCCC2=CC=CC=C2)C=C1 | C19H25N
reactant | EDC.HCl | 0.33 mmol, 63 mg | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | 5-Fluoro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-phenethyl-amide | 85 mg, 66% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=C(C=C3C=CNC23)F)CCC2=CC=CC=C2)C=C1 | C28H29FN2O
